US03957788
To a Grignard reagent prepared from magnesium turnings (6.7 g), magnesium powder (6.7 g) and p-methoxybenzyl chloride (18.1 g) in absolute ether (240 ml) is added dropwise a solution of 3-(2-hydroxyethyl)-2-phenyloxazolidine (9.6 g) in absolute ether (24 ml) under stirring, and the mixture is heated under reflux for 3 hours. The reaction mixture is poured onto ice water (100 ml) containing ammonium chloride under vigorously stirring by decantation, and the mixture is made alkaline with ammonia. The ether layer is separated and extracted with an excess amount of 10 % hydrochloric acid. The hydrochloric acid layer is made alkaline with sodium hydroxide and extracted with chloroform. The chloroform layer is dried over anhydrous sodium sulfate and then the solvent is distilled off to give an oily substance of crude N,N-bis(2-hydroxyethyl)-2-(4-methoxyphenyl)-1-phenylethylamine (10.2 g).

reactant | magnesium | 6.7 g | [Mg] | Mg
reactant | magnesium | 6.7 g | [Mg] | Mg
reactant | p-methoxybenzyl chloride | 18.1 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 3-(2-hydroxyethyl)-2-phenyloxazolidine | 9.6 g | OCCN1C(OCC1)C1=CC=CC=C1 | C11H15NO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ether | 240 ml | CCOCC | C4H10O
solvent | ether | 24 ml | CCOCC | C4H10O
product | N,N-bis(2-hydroxyethyl)-2-(4-methoxyphenyl)-1-phenylethylamine | 10.2 g | OCCN(CCO)C(CC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C19H25NO3
